US07964607B2
3-methyl-6-[(3S,4S)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 3-methyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and nicotinaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.53 (m, 2H), 7.83 (d, J=7.9 Hz, 1H), 7.36-7.33 (m, 1H), 4.74-4.68 (m, 1H), 4.12-4.07 (m, 2H), 3.79-3.76 (m, 1H), 3.68-3.65 (m, 1H), 3.59-3.52 (m, 2H), 3.47 (s, 1H), 3.34 (t, J=8.7 Hz, 1H), 2.99 (d, J=9.9 Hz, 1H), 2.82-2.80 (m, 1H), 2.61-2.57 (m, 1H), 2.54 (s, 3H), 2.42-2.28 (m, 2H), 1.95 (t, J=8.7 Hz, 1H), 1.87-1.78 (m, 2H), 1.19 (d, J=7.1 Hz, 3H). MS: (M+H m/z 409.2).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | 3-methyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | CC1=NN(C=2N=C(NC(C21)=O)[C@@H]2CNC[C@H]2C)C2CCOCC2 | C16H23N5O2
reactant | nicotinaldehyde | C(C1=CN=CC=C1)=O | C6H5NO
product | 3-methyl-6-[(3S,4S)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | CC1=NN(C=2N=C(NC(C21)=O)[C@@H]2CN(C[C@H]2C)CC=2C=NC=CC2)C2CCOCC2 | C22H28N6O2
